US07547691B2
(E). Preparation of [4-(6-aminobenzo[b]thiophen-2-yl)-5-methylpyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine
(2-{5-Methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-6-yl)-carbamic acid tert-butyl ester (0.33 g, 0.66 mmol) is dissolved in dichloromethane (6 mL) and TFA (0.78 mL) is added. The solution is stirred for 20 hours before adding methanol. The mixture is passed through an SCX column. After eluting with methanol, 20% of 2.0 M NH3/MeOH in EtOAc is used to elute the product which is then chromatographed on silica gel, eluting with 2.0 M NH3/MeOH in dichloromethane 0-15%, to give the title compound as a yellow oil. (166 mg, 64% yield). ES+(m/z) 397 [M+H].

reactant | (2-{5-Methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-6-yl)-carbamic acid tert-butyl ester | 0.66 mmol, 0.33 g | C(C)(C)(C)OC(NC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C)C1)=O | C26H36N6O2S
reactant | TFA | 0.78 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methanol | CO | CH4O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | [4-(6-aminobenzo[b]thiophen-2-yl)-5-methylpyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine | 64% yield | NC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C)C1 | C21H28N6S
